US05629322
trans-Decahydro-2-quinolinone
A mixture of 1 g (6.62 mmol) of 3,4,5,6,7,8,-hexahydro-2(1H)-quinolinone, 2.8 g (41 mmol) of sodium formate and 5 mL of formic acid was heated to reflux for 1 day The reaction mixture was then cooled and 20% sodium hydroxide solution was added to make it basic. This mixture was then extracted with ethyl acetate. The combined ethyl acetate extracts were dried over anhydrous magnesium sulfate and the solvent was removed to give a crude product. This was purified on silica gel using ethyl acetate as solvent to provide 752 mg of the desired product with about 10% of the cis-isomer. Recrystallization of this material from cyclohexane did not improve the ratio of the isomers.

reactant | 3,4,5,6,7,8,-hexahydro-2(1H)-quinolinone | 6.62 mmol, 1 g | N1C(CCC=2CCCCC12)=O | C9H13NO
reactant | sodium formate | 41 mmol, 2.8 g | C(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | trans-Decahydro-2-quinolinone | 752 mg | N1C(CC[C@@H]2CCCC[C@@H]12)=O | C9H15NO
